US07951810B2
Step d: {(2R,3S,5R)-5-[4-(benzylamino)-1H-pyrrolo[3,2-c]pyridin-1-yl]-3-hydroxytetrahydrofuran-2-yl}methyl sulfamate (I-143)
To a solution of ((2R,3S,5R)-5-[4-(benzylamino)-1H-pyrrolo[3,2-c]pyridin-1-yl]-3-{[tert-butyl(dimethyl)silyl]oxy}tetrahydrofuran-2-yl)methyl sulfamate (0.0300 g, 0.0563 mmol) in THF/pyridine (1 mL, 1:1) was added hydrofluoric acid in pyridine (3 drops) and stirred overnight. The reaction was diluted with EtOAc (5 mL) and quenched with saturated aq NaHCO3 (10 mL). The aq layer was extracted with EtOAc (3×10 mL) and the combined organics were dried (Na2SO4), filtered, and concentrated. The crude material was purified by preparative plate chromatography (10% MeOH/EtOAc) to give the final compound (0.00590 g, 25%).

reactant | ((2R,3S,5R)-5-[4-(benzylamino)-1H-pyrrolo[3,2-c]pyridin-1-yl]-3-{[tert-butyl(dimethyl)silyl]oxy}tetrahydrofuran-2-yl)methyl sulfamate | 0.0563 mmol, 0.0300 g | S(N)(OC[C@H]1O[C@H](C[C@@H]1O[Si](C)(C)C(C)(C)C)N1C=CC=2C(=NC=CC21)NCC2=CC=CC=C2)(=O)=O | C25H36N4O5SSi
reactant | hydrofluoric acid | F | FH
solvent | THF pyridine | 1 mL | C1CCOC1.N1=CC=CC=C1
catalyst | pyridine | 3 drops | N1=CC=CC=C1 | C5H5N
solvent | EtOAc | 5 mL | CCOC(=O)C | C4H8O2
product | {(2R,3S,5R)-5-[4-(benzylamino)-1H-pyrrolo[3,2-c]pyridin-1-yl]-3-hydroxytetrahydrofuran-2-yl}methyl sulfamate | 0.00590 g, 25% | S(N)(OC[C@H]1O[C@H](C[C@@H]1O)N1C=CC=2C(=NC=CC21)NCC2=CC=CC=C2)(=O)=O | C19H22N4O5S
